* Subcircuit CD4027B_IC
.subckt CD4027B_IC net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ 
* c:\fossee\esim\library\subcircuitlibrary\cd4027b_ic\cd4027b_ic.cir
.include CD4027B_JK_FF.sub
x1 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad15_ net-_u1-pad14_ net-_u1-pad16_ net-_u1-pad8_ CD4027B_JK_FF
x2 net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad3_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad16_ net-_u1-pad8_ CD4027B_JK_FF
* Control Statements

.ends CD4027B_IC